US04954659
Preparation of 1,4-bis(3,4-Dimethoxyphenyl)butane-1-ol
Under N2, Mg powder (21.15 g, 0.87 gram-atom) was added to a 5 1, 3-neck flask fitted with a mechanical stirrer, condenser, and septum inlet. The Mg was covered with dry THF (200 cc), stirring was begun and a trace of iodine was added followed by about 20 cc then dropwise addition of a solution of 1-bromo,3-(3,4-dimethoxyphenyl)propane (222 g, 0.857 mole) from which all traces of water had been removed in dry THF (1150 cc) at a rate to maintain gentle reflux over a period of 2.5 hours. The resulting dark grey solution was stirred and refluxed for 45 minutes and then cooled to 0° C. With stirring a solution of dried 3,4-dimethoxybenzaldehyde (149.5 g, 0.899 mole) in dry THF (150 cc) was added dropwise over 1 hour at 0° C.-3° C. The resulting mixture was stirred overnight at room temperature, cooled to 0° C., and treated over 1/2 hour at 0°-5° C. with saturated NH4Cl solution (100 cc). The nitrogen atmosphere was discontinued at this point. After standing at room temperature for several hours, the mixture was filtered and the solids were air-dried overnight. The filtrate was evaporated in vacuo to a syrup. The solids were extracted with CH2Cl2 (500 cc) by stirring for a few hours and filtering. The filtrate was combined with the syrup from above and the mixture was diluted with CH2Cl2 (1:1) The organic solution was washed with H2O (3 ×500 cc), dried (Na ), and evaporated in vacuo to a light orange syrup; yield: 300 g (>100%).

reactant | iodine | II | I2
reactant | 1-bromo,3-(3,4-dimethoxyphenyl)propane | 0.857 mole, 222 g | BrCCCC1=CC(=C(C=C1)OC)OC | C11H15BrO2
reactant | 3,4-dimethoxybenzaldehyde | 0.899 mole, 149.5 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | NH4Cl | 100 cc | [NH4+].[Cl-]
solvent | THF | 150 cc | C1CCOC1 | C4H8O
solvent | THF | 200 cc | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1,4-bis(3,4-Dimethoxyphenyl)butane-1-ol | COC=1C=C(C=CC1OC)C(CCCC1=CC(=C(C=C1)OC)OC)O | C20H26O5
